* C:\Users\berto\NotSync\GitHub\Laboratorio_3\Esperienza_02\Circuiti\Circuito5.asc
C2 0 V- 0.1µ
V3 0 V- +15
V4 V+ 0 +15
C1 V+ 0 0.1µ
XU2 0 N002 V+ V- OUT1 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU1 0 N001 V+ V- OUT2 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
Vg V1 0 SINE(0 5 1k)
R1a N002 V1 50k
R1c N001 V1 50k
R1b V2 N002 50k
D1 V2 OUT1 1N4148
R2 N001 V2 25k
R1d OUT2 N001 50k
D2 OUT1 N002 1N4148
.model D D
.lib C:\Users\berto\OneDrive\Documenti\LTspiceXVII\lib\cmp\standard.dio
.tran 2m
.lib UniversalOpamps2.sub
.backanno
.end
